Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / adhesive tape / Motrin / NSAIDS (Non-Steroidal 
Anti-Inflammatory Drug)
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, N/V, melena
 
Major Surgical or Invasive Procedure:
___: EGD

 
History of Present Illness:
Per admitting resident: ___ female  with history 
Roux-en-Y gastric bypass over ___ years ago and known 
gastro-gastric fistula, s/p cholecystectomy presenting with 
acute on chronic worsening epigastric pain and new onset of dark 
stool since first noted a week ago. She describes the pain as 
intermittent, occasionally severe, stabbing pain arising in her 
mid epigastrium. She cannot relate any particular food intake 
that triggers the pain, although notes that the frequency and 
severity of these symptoms have increased over the last few 
weeks. She has noted associated weakness, episodes of dizziness 
and palpitations during this time. She has been followed by Dr. 
___ since ___ for similar symptoms, which 
initially responded well to PPI and Carafate for a few years. 
However, these episodes have increased
in frequency and intensity since ___ and the dark tarry stools 
is a new occurrence.
An endoscopy in ___ revealed the previous Roux-en-Y gastric
bypass with granularity, friability, erythema and congestion in
the stomach body compatible with gastritis. Pathology at this
time revealed chemical-type injury.
 

 
Past Medical History:
PMH:
hx obesity
back pain
hip pain 
neck pain
gastro-gastric fistula

PSH:
RNY gastric bypass ___
Gastro-gastric fistula
hysterectomy
myomectomy for fibroids
open cholecystectomy                       

 
Social History:
___
Family History:
non contributory
 
Physical Exam:
T 98.9 P 64 BP 115/81 RR 18 02 99%RA
Gen: no acute distress
Cardiac: regular rate and rhythm, no murmurs appreciated
Resp: clear to auscultation, bilaterally; breathing non-labored
Abdomen: soft, non-tender, non-distended, no rebound tenderness 
or guarding, well healed abdominal incisions
Ext: no lower extremity edema or tenderness
 
Pertinent Results:
LABS:
___ 12:10PM BLOOD WBC-3.9* RBC-3.06*# Hgb-7.9*# Hct-24.8*# 
MCV-81* MCH-25.8* MCHC-31.9* RDW-15.9* RDWSD-47.4* Plt ___
___ 03:15PM BLOOD Hct-23.2*
___ 09:15PM BLOOD Hct-23.1*
___ 05:35AM BLOOD WBC-2.1* RBC-2.72* Hgb-7.1* Hct-22.1* 
MCV-81* MCH-26.1 MCHC-32.1 RDW-15.8* RDWSD-47.0* Plt ___
___ 04:40AM BLOOD WBC-2.4* RBC-2.67* Hgb-7.0* Hct-21.9* 
MCV-82 MCH-26.2 MCHC-32.0 RDW-15.9* RDWSD-48.2* Plt ___
___ 06:00PM BLOOD Hct-27.9*#
___ 05:35AM BLOOD PTH-88*
___ 05:35AM BLOOD Triglyc-73 HDL-55 CHOL/HD-3.3 LDLcalc-114
___ 05:35AM BLOOD calTIBC-277 VitB12-386 Folate-8 
Ferritn-6.5* TRF-213
___ 05:35AM BLOOD Albumin-3.2* Calcium-8.4 Phos-3.3 Mg-1.9 
Iron-26* Cholest-184
___ 05:35AM BLOOD VITAMIN B1-WHOLE BLOOD-PND

IMAGING:

___

EGD: Evidence of a previous Roux-en-Y gastric bypass was seen. 
There was a gastro-gastric fistula seen which allowed the 
endoscope to enter into the gastric remnant. The mucosa in 
gastric remnant appeared normal and no Ulcer was noted. Normal 
mucosa in the duodenum At the site of GJ anastomosis, there was 
about 2 cm clean based ulcer with heaped up, erythematous mucosa 
surrounding the same. The alimentary limb was traverses and 
appeared normal. JJ anastomosis could not be reached.
Otherwise normal EGD to jejunum 
 
Brief Hospital Course:
The patient presented to the Emergency Department on ___ with worsening epigastric pain and melena; admission hct 
24.9, however, the patient remained hemodynamically stable. 
Given concern for gastro-intestinal bleeding, the patient was 
admitted to the ___ where she was placed 
on bowel rest, given intravenous fluids and pantoprazole and had 
serial hematocrit levels monitored.
Neuro: The patient was alert and oriented throughout 
hospitalization; pain was managed intravenous morphine and 
acetaminophen.  At the time of discharge, the patient reported 
significant improvement of her abdominal pain and reported no 
pain with intake of solid food.  
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, and ambulation were encouraged throughout 
hospitalization. 
GI/GU/FEN: The patient was initially kept NPO with 
administration of intravenous antacid medication q 12 hours.  On 
HD3, she underwent upper endoscopy which revealed a 2 cm 
marginal ulcer and confirmed the presence of a gastro-gastric 
fistula.  Post-procedure, the diet was advanced to a Regular 
diet, which was well tolerated with abdominal pain, nausea or 
vomiting.  Patient's intake and output were closely monitored.  
Of note, on HD4, the patient had an episode of symptomatic 
hypoglycemia which she had been experiencing prior to admission. 
 The ___ was consulted for evaluation of 
post-RNY bypass hypoglycemia.  She will be discharged with a 
glucometer, follow-up with her PCP within one as discussed with 
her and Dr. ___ at the ___.
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched. On HD3, 
she did receive 2U PRBCs with an appropriate response in her 
hematocrit levels.  Hct remained stable for the remainder of the 
hospitalization.
At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Pregabalin 100 mg PO BID 
2. Fish Oil (Omega 3) 1000 mg PO BID 
3. LORazepam 1 mg PO TID:PRN Anxiety 
4. Docusate Sodium 100 mg PO TID:PRN Constipation 
5. Multivitamins 1 TAB PO DAILY 
6. Pantoprazole 20 mg PO Q12H 
7. Escitalopram Oxalate 10 mg PO DAILY 
8. Vitamin D ___ UNIT PO DAILY 
9. Modafinil 200 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  calcium citrate-vitamin D3 500 mg calcium -400 unit oral BID 
 
3.  cyanocobalamin (vitamin B-12) 500 mcg sublingual DAILY  
4.  FreeStyle Lite Meter (blood-glucose meter) 1 unit 
miscellaneous ASDIR 
RX *blood-glucose meter  1 kit AS DIR Disp #*1 Kit Refills:*0 
5.  FreeStyle Lite Strips (blood sugar diagnostic) 1 box 
miscellaneous ASDIR 
RX *blood sugar diagnostic [FreeStyle Lite Strips]  1 box AS DIR 
Disp #*1 Box Refills:*5 
6.  Sucralfate 1 gm PO QID 
RX *sucralfate 1 gram 1 tablet(s) by mouth four times a day Disp 
#*120 Tablet Refills:*3 
7.  Multivitamins 1 TAB PO BID  
8.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*3 
9.  Docusate Sodium 100 mg PO TID:PRN Constipation  
10.  Escitalopram Oxalate 10 mg PO DAILY  
11.  Fish Oil (Omega 3) 1000 mg PO BID  
12.  LORazepam 1 mg PO TID:PRN Anxiety  
13.  Modafinil 200 mg PO DAILY  
14.  Pregabalin 100 mg PO BID  
15.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Marginal ulcer
Acute blood loss anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital with pain, nausea, vomiting 
and blood in your stool.  Also, your blood count was very low 
reflecting bleeding from your GI tract.  Given your 
signs/symptoms, you received a blood transfusion and underwent 
an upper endoscopy, which showed an ulcer just below your 
gastric pouch.  You were treated with high doses of antacids 
(pantoprazole) and a coating medication (sucralfate) and 
discharged to home.  You will need to have a repeat endoscopy in 
12 weeks to document healing of your ulcer; this has been 
scheduled for you and is reflected under follow-up appointments. 
 

You are now preparing for discharge to home with the following 
instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed. You must avoid NSAIDS 
(examples include, but are not limited to Aleve, Arthrotec, 
aspirin, Bufferin, diclofenac, Ecotrin, etodolac, ibuprofen, 
Indocin, indomethacin, Feldene, ketorolac, meclofenamate, 
meloxicam, Midol, Motrin, nambumetone, Naprosyn, Naproxen, 
Nuprin, oxaprozin, Piroxicam, Relafen, Toradol and Voltaren. If 
you are unclear whether a medication is considered an NSAID, 
please ask call your nurse or ask your pharmacist. Additionally, 
avoid alcohol, smoking or exposure to second-hand smoke. 

 
Followup Instructions:
___